US08350046B2
Synthesis of N-(2-bicyclopropyl-2-ylphenyl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide
16.7 g (0.086 mol, 98% pure) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride were dissolved at 25° C. in 48.0 g of toluene. The solution was evacuated to 400 mbar and heated to 85° C. Subsequently, within 45 min, 15.0 g (0.087 mol) of 2-bicyclopropyl-2-ylphenylamine, dissolved in 51.6 g of toluene, were metered in and the reaction mixture was stirred for another 1 h. After venting and cooling to 25° C., the mixture was stirred overnight. Subsequently, the mixture was concentrated under reduced pressure and dried. The yield was 27.3 g (96%).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.086 mol, 16.7 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 2-bicyclopropyl-2-ylphenylamine | 0.087 mol, 15.0 g | C1(C(C1)C1=C(C=CC=C1)N)C1CC1 | C12H15N
solvent | toluene | 48.0 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 51.6 g | C1(=CC=CC=C1)C | C7H8
product | N-(2-bicyclopropyl-2-ylphenyl)-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxamide | C1(C(C1)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1)C)C(F)F)C1CC1 | C18H19F2N3O
